US07335660B2
a) 1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile
2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol (1.3 g, 5.1 mmol), zinc cyanide (0.36 g, 3 mmol) and tetrakis(triphenylphosphine)palladium (0) (0.23 g, 0.20 mmol) were stirred in degassed DMF (20 mL) under nitrogen at reflux for 9 h. The reaction mixture was diluted with toluene and washed with 2M aqueous ammonia, the aqueous layer further extracted with ethyl acetate, then the combined organic extracts washed with brine. The organic extracts were dried (MgSO4), filtered and evaporated in vacuo. Purification by flash chromatography on silica, eluting with ethyl acetate/hexane (30:70 to 0:100), yielded the title compound as a light brown oil.

reactant | 2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | 5.1 mmol, 1.3 g | BrC=1C=CC2=C(CCOC2CCO)C1 | C11H13BrO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc cyanide | 3 mmol, 0.36 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.20 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-carbonitrile | OCCC1OCCC2=C1C=CC(=C2)C#N | C12H13NO2
